Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"Overdose"
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
Patient is a ___ y/o female, with history of suicide attempt,
otherwise without formal past psychiatric history, and past
medical history of concussion, who was brought to OH s/o Tylenol
OD. Psychiatry was consulted for safety. 

Patient reported feeling longstanding decompensated depression.
Patient reported her mood worsened in ___, which was 
the
___ year anniversary of her miscarriage. Patient reported feeling
very sad and lonely. Patient endorsed disturbance in
neurovegetative symptoms, with insomnia, fatigue, decreased
concentration, and decreased interest. Patient endorsed feeling
hopeless and helpless. 

Patient reported that her depressive symptoms had been severe 
for
some time, but she had not had any thoughts of ending her life 
or
SIB until 2 days prior to presentation (___). 
Patient
reported returning home from work ___ and feeling very sad 
and
lonely. Patient reported cutting with a razor to her right palm.
Patient's husband returned home later in the evening and she was
consolable. Patient and her husband then went to sleep. Patient
reported that after husband left for work the following day she
again felt very depressed. Patient reported impulsively reaching
for Tylenol and taking fistfuls of that and several minutes
taking fistfuls of Tylenol ___. Patient reported these actions
were an attempt to end her life. Patient's brother-in-law then
came by and talked with her, and they spent time together. About
one hour later patient began to feel quite dizzy, and then told
her brother-in-law to contact emergency services. Patient then
reported the ingestion to paramedics. Patient was taken to an
outside hospital, and then transferred to ___. Of note, 
patient
endorsed past thoughts of suicide when depressed. 

Patient denied current symptoms of hypomania/mania during 
current
and past episodes. Patient denied current and past symptoms of
psychosis. Patient denied current substance abuse.

Patient endorsed past episodes of high energy, most recently in
mid ___. Patient noted decreased need for sleep (getting 
___
hours at a time), more goal directed activity, spending more
money than usual, and eating more. Patient reported past similar
episodes. 

Psychiatric ROS: 
- Depression: Positive for low self esteem, insomnia, decreased
concentration, decreased appetite, decreased energy,
hopelessness, and guilt. Negative for anhedonia.
- Mania: Negative for sustained increase in energy, increase in
sustained distractibility, sustained decreased need for sleep,
racing thoughts, increased goal directed behavior, sexual
promiscuity, increased impulsivity
- Anxiety: Negative for panic attacks, general anxiety,
obsessions, compulsions, social anxiety
- Psychosis: Negative for AVTH, delusions
- Behavior: Negative for low frustration tolerance, aggression,
emotional dysregulation, impulsivity 
- Trauma: Negative for flashbacks, nightmares, hypervigilance,
avoidance
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
-Diagnoses: None
-Hospitalizations: None
-SA/SIB: History of suicide attempt ___ years ago, i/s/o
depression, had recently lost baby and broke up with patient's
father, refuses to provide additional details. Endorsed history
of SIB many years ago via cutting to left supine forearm, with
infrequent relapses
-Medications: No current or past psychotropic meds
-Treaters: None; past therapist in grade school ___ years but 
does
not provide additional details, no past psychiatrist
-Trauma: Denied; however, reported history of significant verbal
and physical bullying in elementary, including concussion 
-Access to weapons: Denied
-Violence: ___
PAST MEDICAL HISTORY: 
Acute bronchitis
Head injury in middle school- punched in eye when being bullied,
LOC, concusion 
Denied history of seizure
 
Social History:
SOCIAL HISTORY:
Moved too ___ ___ to be with current husband,
Husband, ___ (___). Patient met husband through a
mutual friend. Patient was born in ___, and moved to ___ at 
___
y/o to ___. Reported strong relationships with family,
including mother and husband's family. Currently, employed 
___. Lives with ___
family's home. Patient's mother is in ___ with, 2 brothers (1 
&
___ y/o) and half brother ___ y/o). Patient's father is in
___. Completed half of eleventh grade. 

SUBSTANCE ABUSE HISTORY:
Alcohol- denied current use; h/o heavy alcohol use, last ___
denied h/o complicated w/d
Marijuana- denied
Benzos- denied
Opiates- denied
Cocaine- denied
IVDA- denied
Nicotine- denied

FORENSIC HISTORY:
Arrests: Denied
Convictions and jail terms: Denied
Current Status: N/A
 
Family History:
FAMILY HISTORY: 
-Mother- depression, suicide attempt
-Brother- depression, addiction
-Denied known psychiatric illness, completed suicides, suicide
attempts, and addiction.
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:
 VS: BP=117/74, HR=69, T=97.7, RR=16, SaO2=100%  on RA

 * General: NAD. Well-nourished, well-developed. Appears stated
age.
 * HEENT: Normocephalic. PERRL, EOMI. Oropharynx clear.
 * Neck: Supple, trachea midline. No adenopathy or thyromegaly.
 * Back: No significant deformity. No focal tenderness.
 * Lungs: Clear to auscultation bilaterally. No crackles or
wheezes.
 * CV: Regular rate and rhythm. No murmurs/rubs/gallops. 2+ 
pedal
pulses.
 * Abdomen: Soft, nontender, nondistended; no masses or
organomegaly.
 * Extremities: No clubbing, cyanosis, or edema.
 * Skin: Warm and dry. No readily apparent rashes, scars, or
lesions.

 Neurological:
   *Cranial Nerves:
        I: Not tested.
        II: Pupils equally round and reactive to light
 bilaterally. Visual fields are full to confrontation.
       III, IV, VI: Extraocular movements intact bilaterally
 without nystagmus.
       V, VII: Facial strength and sensation intact and
symmetric.
       VIII: Hearing intact to voice.
       IX, X: Palatal elevation symmetrical.
       XI: Sternocleidomastoid and trapezius normal bilaterally.
       XII: Tongue midline without fasciculations.
   *Motor- Normal bulk and tone bilaterally. No abnormal
movements, no tremor. Strength full power ___ throughout. No
gross focal motor or sensory deficits, normal gait.
   *Coordination: Normal on heel-to-shin.
   *Sensation: Intact to light touch.
   *Gait: Steady. No truncal ataxia. Normal stance and posture.
   *Romberg: Negative.

 
Pertinent Results:
___ 05:00AM   ___ PTT-26.9 ___
___ 05:00AM   PLT COUNT-257
___ 05:00AM   NEUTS-82.6* LYMPHS-12.8* MONOS-4.2* EOS-0.0* 
BASOS-0.2 IM ___ AbsNeut-5.34 AbsLymp-0.83* AbsMono-0.27 
AbsEos-0.00* AbsBaso-0.01
___ 05:00AM   WBC-6.5 RBC-4.47 HGB-12.4 HCT-37.0 MCV-83 
MCH-27.7 MCHC-33.5 RDW-12.8 RDWSD-38.5
___ 05:00AM   ASA-NEG ETHANOL-NEG ACETMNPHN-46* 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 05:00AM   TSH-0.46
___ 05:00AM   ALBUMIN-3.9 CALCIUM-8.6 PHOSPHATE-3.3 
MAGNESIUM-1.9
___ 05:00AM   LIPASE-18
___ 05:00AM   ALT(SGPT)-11 AST(SGOT)-17 ALK PHOS-45 TOT 
BILI-0.8
___ 05:00AM   GLUCOSE-132* UREA N-10 CREAT-0.6 SODIUM-137 
POTASSIUM-3.9 CHLORIDE-106 TOTAL CO2-20* ANION GAP-15
___ 05:14AM   LACTATE-0.9
___ 06:30AM URINE  RBC-2 WBC-0 BACTERIA-NONE YEAST-NONE 
EPI-5
___ 06:30AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-POS 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
 
Brief Hospital Course:
SAFETY: The patient was placed on 15 minute checks on admission 
and remained here on that level of observation throughout. She 
was unit restricted. There were no acute safety issues during 
this hospitalization.

LEGAL: ___
PSYCHIATRIC:  
#Major Depressive Disorder, Recurrent, Severe - Ms ___ 
endorses a history of depression since the age of ___. She had 
had two suicide attempts including the Tylenol overdose that led 
to her current presentation. Her most recent attempt was 
considered high lethality. During her hospitalization, she was 
initiated on Zoloft 50 mg QD.  Throughout hospitalization, she 
denied suicidal ideation.  At the time of discharge, she 
continued to deny depressive symptoms or suicidal ideation and 
was future-oriented and hopeful. She was discharged on Zoloft 50 
mg with scheduled intake appointment with psychiatric providers.

GENERALMEDICALCONDITIONS:
#Tylenol Overdose – Ms ___ was transferred to the inpatient 
psychiatry unit following medical admission for treatment of 
acute Tylenol overdose s/p NAC protrocol.  At the time of 
transfer her liver enzymes had normalized.  Medicine 
recommendations were for clinical follow-up as an outpatient 
with consideration of serial enzyme checks as clinically 
indicated.

#Microscopic Hematuria – During medical admission, Ms ___ was 
noted to have a microscopic hematuria.  Please repeat UA and if 
positive continue outpatient workup.

PSYCHOSOCIAL:

#)GROUPS/MILIEU:  Ms ___ participated actively in the unit’s 
groups/milieu/therapy opportunities.  She was encouraged to use 
coping skills as well as develop mindfulness/relaxation methods 
while an inpatient.  Individual therapy built on these skills 
and encouraged skill practice as well as providing supportive 
psychotherapy and psychoeducation about the importance of 
aftercare follow-through.

#)COLLATERAL CONTACTS:  The patient had no current outpatient 
providers at the time of admission.

#)FAMILYINVOLVEMENT: The team was in contact with the patient’s 
mother , ___, who noted concern about her daughter’s 
recent suicide attempt, but reported no ongoing safety concerns 
and was looking forward to her daughter’s upcoming visit to 
___ this weekend.

#)INTERVENTIONS: 
-Medications: Zoloft 50 mg daily 
-Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
-Coordination of aftercare: Patient scheduled for an intake 
appointment at the ___ and provided 
assistance submitting ___ Insurance Application
-Behavioral Interventions: Emphasis on development of coping 
skills and mindfulness practice.

INFORMEDCONSENT: Ms ___ provided informed consent for the 
initiation of Zoloft 50 mg QD.

#RISK ASSESSMENT  
At the time of discharge Ms ___ was at her baseline moderately 
elevated risk of harm to self and others.

CHRONIC/STATIC RISK FACTORS 
Hx trauma (severe bullying)
Hx 2 prior high lethality suicide attempts
Hx longstanding affective disorder
Hx of impulsivity (ADHD)

MODIFIABLE RISK FACTORS
Lack of connection with outpatient providers 

___ with treatment 
Future Orientation 
No history of violence 
Rapid resolution of mood decompensation 
Denial of suicidal ideation 
Social supports – mother, boyfriend, boyfriend’s family

#PROGNOSIS Guarded
On presentation, Ms ___ was evaluated and felt to be at an 
increased risk of harm to herself and/or others based on her 
recent high lethality suicide attempt.  Her static factors noted 
at that time include history of lonstanding affective disorder, 
history of trauma (severe bullying), history of 2 prior 
high-lethality suicide attempts and longstanding impulsivity.  
At the time of admission, Ms ___ denied ongoing mood 
decompensation or suicidal ideation, but demonstrated poor 
insight into her longstanding mood disorder and recent high 
lethality suicide attempt.   Additional modifiable risk factors 
of  lack of connection with outpatient treaters and poor insight 
into her illness were addressed through psychoeducation and 
robust aftercare planning..  Finally, the patient is being 
discharged with many protective risk factors, lack of suicidal 
ideation, improvement in mood as well as extensive 
psychoeducation around importance of aftercare planning and 
psychopharmacologic interventions (zoloft).  Overall, based on 
the totality of our assessment at this time, the patient is 
thought to be at his baseline chronically elevated moderate risk 
of self-harm/suicide and is not thought to be at an acutely 
elevated risk. Our Prognosis of this patient is guarded given 
her history of multiple prior impulsive high lethality suicide 
attempts.  

 
Medications on Admission:
None 
 
Discharge Medications:
1. Sertraline 50 mg PO QHS 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major Depressive Disorder, recurrent; Suicide attempt (high 
lethality Tylenol overdose)

 
Discharge Condition:
Stable 

Exam:
  *VS:  BP: 108/59  HR: 89  temp: 97.8   resp: 16  O2 sat: 100%  


 Neurological:
    *station and gait: stable, narrow-based
    *tone and strength: moves all 4 extremities symmetrically 
    cranial nerves: no gross deficits, CN II-XII intact, no
dysarthria 
    abnormal movements: none noted
    frontal release: not assessed
  *Appearance: young appearing woman wearing own clothes
  Behavior: calm and cooperative 
  *Mood and Affect: 'good'/euthymic
  *Thought process: linear, sequential and goal-oriented, no LOA
  *Thought Content:  Denies ongoing SI, does not endorse HI, AVH
  *Judgment and Insight: fair/ fair
  Cognition: 
    *Attention, *orientation, and executive function:  attended
well to psychiatric interview, oriented to self and situation  
    *Memory: intact to personal events both remote and recent 
    *Fund of knowledge: not formally assessed, appears average
    Calculations: not assessed
    Abstraction: not assessed 
    Visuospatial: not assessed 
    *Speech: normal tone, rate, prosody and volume
    *Language: fluent ___ 

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.

-Please continue all medications as directed.

-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.

-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.

-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

Mindfulness:  You participated in mindfulness activities 
throughout your inpatient hospitalization.  These activities can 
be helpful to your mood including helping you with both anxiety 
and depression.  Please continue to participate in mindfulness 
activities including paced breathing, progressive muscle 
relaxation and guided visualization as an outpatient.  

Some smartphone applications that may be useful to consider 
downloading are listed below.   Most of these applications can 
be downloaded for free and there are many more applications to 
consider as well.  Finding what works for you is the most 
important step.

Smartphone Applications:
Head Space
SuperBetter 
Mindfulness Meditation (Creators: Mind Workout)

___ Pharmacy 
Address:  ___
Phone: ___
Directions: In ___, Turn Right to the Specialty 
___ after entering through the door (note there are two ___ 
pharmacies)

*It was a pleasure to have worked with you, and we wish you the 
best of health.*
 
Followup Instructions:
___